US06921763B2
A mixture of N-(4-bromophenyl)-N-[6-(trifluoromethyl)benzo[d]isoxazol-3-yl]amine (1.75 g, 0.0049 mol), diboron pinacol ester (1.49 g, 0.0059 mol), [1.1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (0.120 g, 0.000147 mol) and potassium acetate (1.44 g, 0.0144 mol) in N,N-dimethylformamide (10 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent was removed under reduced pressure. Dichloromethane (70 mL) was added to the residue and the resulting solid was removed by filtration through a pad of Celite. The filtrate was concentrated to leave a yellow oil that was purified by flash chromatography on silica using ethyl acetate/n-heptane (1:6) as mobile phase to yield N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-N-[6-(trifluoromethyl)benzo[d]isoxazol-3-yl]amine (0.065 g, 0.000161 mol) as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 9.97 (s, 1H), 8.39 (d, 1H), 8.14 (s, 1H), 7.77 (d, 1H), 7.71 (s, 4H), 1.29 (s, 12H).

reactant | N-(4-bromophenyl)-N-[6-(trifluoromethyl)benzo[d]isoxazol-3-yl]amine | 0.0049 mol, 1.75 g | BrC1=CC=C(C=C1)NC1=NOC2=C1C=CC(=C2)C(F)(F)F | C14H8BrF3N2O
reactant | diboron pinacol ester | 0.0059 mol, 1.49 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.000147 mol, 0.120 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.0144 mol, 1.44 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-N-[6-(trifluoromethyl)benzo[d]isoxazol-3-yl]amine | 0.000161 mol, 0.065 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC1=NOC2=C1C=CC(=C2)C(F)(F)F)C | C20H20BF3N2O3
